US07790724B2
b) 6-Bromo-2-(4,4-dimethyl-cyclohex-1-enyl)-pyridin-3-ylamine
The title compound was prepared from 6-bromo-2-iodo-pyridin-3-ylamine (as prepared in the previous step, 348 mg, 1.17 mmol), 4,4-dimethylcyclohexen-1-yl boronic acid (198 mg, 1.28 mmol), Pd(PPh3)4 (135 mg, 0.117 mol) and 2M Na2CO3 (15.2 mL, 30.5 mmol) according to the procedure in Example 44, step (b) (417 mg, 46%). 1H-NMR (CDCl3; 400 MHz): δ 7.06 (d, 1H, J=8.3 Hz), 6.85 (d, 1H, J=8.3 Hz), 5.95 (m, 1H), 3.86 (br s, 2H), 2.43-2.39 (m, 2H), 1.99-1.97 (m, 2H), 1.51 (t, 2H, J=6.4 Hz), 0.99 (s, 6H).

reactant | 6-bromo-2-iodo-pyridin-3-ylamine | BrC1=CC=C(C(=N1)I)N | C5H4BrIN2
reactant | 4,4-dimethylcyclohexen-1-yl boronic acid | 1.28 mmol, 198 mg | CC1(CC=C(CC1)B(O)O)C | C8H15BO2
reactant | Na2CO3 | 30.5 mmol, 2M, 15.2 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.117 mol, 135 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-Bromo-2-(4,4-dimethyl-cyclohex-1-enyl)-pyridin-3-ylamine | BrC1=CC=C(C(=N1)C1=CCC(CC1)(C)C)N | C13H17BrN2
